US04478835
A mixture of 3.00 g (13.1 mmole) of 2,4-bis(methylthio)-6-formylaminomethylpyrimidine, 2.25 g (14.2mmole) of phosphorous oxychloride and 50 ml of dioxane was stirred at 20° C. for 20 hours, then heated at reflux for 0.5 hour. The mixture was poured into 100 ml of water, neutralized with solid sodium bicarbonate and extracted with chloroform. The chloroform extracts were combined, washed with water and dried over magnesium sulfate. Evaporation of the solvent provided a light yellow solid, 5,7-bis(methylthio)imidazo[1,5-c]pyrimidine. The structural assignment was confirmed by infrared and nuclear magnetic resonance spectral analyses.

reactant | 2,4-bis(methylthio)-6-formylaminomethylpyrimidine | 13.1 mmole, 3.00 g | CSC1=NC(=CC(=N1)SC)CNC=O | C8H11N3OS2
reactant | phosphorous oxychloride | 14.2mmole, 2.25 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | dioxane | 50 ml | O1CCOCC1 | C4H8O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 100 ml | O | H2O
product | 5,7-bis(methylthio)imidazo[1,5-c]pyrimidine | CSC1=NC(=CC=2N1C=NC2)SC | C8H9N3S2
